US08431695B2
Step 1: Preparation of 1-amino-1H-pyrrole-2,4-dicarbonitrile
To a stirred solution of 2,4-dicyano-pyrrole (3.00 g, 25.6 mmol) in DMF (300 mL) was added sodium hydride (60% in mineral oil, 1.54 g, 38.4 mmol). The mixture was stirred for 15 min. Diphenylphosphinyl amino ester (8.96 g, 38.4 mmol) was added. The mixture was vigorously stirred while heating at 80° C. for 2 h and then cooled to rt. The mixture was filtered using DCM washings. The filtrate was concentrated to dryness to provide desired product (2.00 g, 59%). LTQ LC-MS: [M+H]+ 133.0, RT 0.96 min. The product was used in the next step without further purification.

reactant | 2,4-dicyano-pyrrole | 25.6 mmol, 3.00 g | C(#N)C=1NC=C(C1)C#N | C6H3N3
reactant | sodium hydride | 38.4 mmol, 1.54 g | [H-].[Na+]
reactant | DMF | 300 mL | CN(C)C=O | C3H7NO
product | 1-amino-1H-pyrrole-2,4-dicarbonitrile | 2.00 g, 59% | NN1C(=CC(=C1)C#N)C#N | C6H4N4
